US08013008B2
benzyl (2S,3S)-3-ethyl-3-hydroxy-2-methylpyrrolidine-1-carboxylate
By an operation in the same manner as in Reference Example 3 and using cerium chloride (7.94 g), 3 mol/L ethylmagnesium bromide-diethyl ether solution (9.46 mL) and benzyl (2S)-2-methyl-3-oxopyrrolidine-1-carboxylate (3.0 g), the title compound was obtained as pale-yellow oil (yield: 1.96 g, yield: 58%).

reactant | cerium chloride | 7.94 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | ethylmagnesium bromide diethyl ether | 3 mol/L, 9.46 mL | C(C)[Mg]Br.C(C)OCC
reactant | benzyl (2S)-2-methyl-3-oxopyrrolidine-1-carboxylate | 3.0 g | C[C@@H]1N(CCC1=O)C(=O)OCC1=CC=CC=C1 | C13H15NO3
product | benzyl (2S,3S)-3-ethyl-3-hydroxy-2-methylpyrrolidine-1-carboxylate | C(C)[C@]1([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)O | C15H21NO3
